US06649230B1
2.78 g (18.0 mmol) 2,5-dihydroxybenzoic acid were dissolved in 36 ml dimethylformamide. 2.96 ml (19.8 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) were added dropwise in the course of 15 minutes. The reaction temperature rise to 30° C., subsequently 8.83 g (19.8 mmol) 3,5-dinitrobenzoic acid 11-bromoundecyl ester were added in one portion. The mixture was then heated at 80° C. for 2 hours. The reaction mixture was cooled and then partitioned between dichloromethane and 1N hydrochloric acid, the organic phase was washed twice with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 200 g silica gel using Toluene yielded 5.28 g (57%) 3,5-dinitrobenzoic acid 11-[2,5-dihydroxybenzoyloxy]undecyl ester as yellow powder.

reactant | 2,5-dihydroxybenzoic acid | 18.0 mmol, 2.78 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 3,5-dinitrobenzoic acid 11-bromoundecyl ester | 19.8 mmol, 8.83 g | BrCCCCCCCCCCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C18H25BrN2O6
solvent | dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
product | 3,5-dinitrobenzoic acid 11-[2,5-dihydroxybenzoyloxy]undecyl ester | 5.28 g, 57% | OC1=C(C(=O)OCCCCCCCCCCCOC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=C(C=C1)O | C25H30N2O10
